US07737149B2
6-Chloropyridazine-3-carboxamide (0.315 g, 2 mmol) and 1-methylpiperazine (0.555 ml, 5.00 mmol) were suspended in 2-propanol (2.000 ml) and sealed into a microwave tube. The reaction was heated to 130° C. for 30 mins in the microwave reactor and cooled to ambient temperature. The resulting precipitate was collected by filtration, washed with 2-propanol (10 mL) and dried under vacuum to afford 6-(4-methylpiperazin-1-yl)pyridazine-3-carboxamide (0.333 g, 75%) as a white solid, which was used without further purification. A sample (100 mg) of the crude product was purified by preparative LCMS using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford 6-(4-methylpiperazin-1-yl)pyridazine-3-carboxamide (54 mg) as a white solid.

reactant | 6-Chloropyridazine-3-carboxamide | 2 mmol, 0.315 g | ClC1=CC=C(N=N1)C(=O)N | C5H4ClN3O
reactant | 1-methylpiperazine | 5.00 mmol, 0.555 ml | CN1CCNCC1 | C5H12N2
solvent | 2-propanol | 2.000 ml | CC(C)O | C3H8O
product | 6-(4-methylpiperazin-1-yl)pyridazine-3-carboxamide | 0.333 g, 75% | CN1CCN(CC1)C1=CC=C(N=N1)C(=O)N | C10H15N5O
